US09328110B2
The 1-[4-(tert-butyldimethylsilanyloxy)butyl]-1H-imidazo[4,5-c]quinoline (46.0 g, 129 mmol) from the previous step and tetrabutylammonium fluoride (142 mL of a 1 M solution in THF) were dissolved in THF (400 mL) and stirred for 1 hour, then concentrated under reduced pressure to provide 4-(1H-imidazo[4,5-c]quinolin-1-yl)butan-1-ol (20.0 g) as a light brown solid after chromatography on silica gel (elution with 10% methanol in dichloromethane).

reactant | 1-[4-(tert-butyldimethylsilanyloxy)butyl]-1H-imidazo[4,5-c]quinoline | 129 mmol, 46.0 g | [Si](C)(C)(C(C)(C)C)OCCCCN1C=NC=2C=NC=3C=CC=CC3C21 | C20H29N3OSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 4-(1H-imidazo[4,5-c]quinolin-1-yl)butan-1-ol | 20.0 g | N1(C=NC=2C=NC=3C=CC=CC3C21)CCCCO | C14H15N3O
